US08022205B2
4-{2-[Bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid (4-iodo-phenyl)-amide
To dichloroethane solution (2 ml) of bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (108 mg), DMAP (2.4 mg) and 1-iodo-4-isocyanato-benzene (120 mg) were added, followed by refluxing for 3 hours. This was cooled to room temperature, followed by addition of water, and passed through Whatman tube, to obtain the desired compound as a crude product (70.2 mg, 45%).

reactant | dichloroethane | 2 ml | ClC(C)Cl | C2H4Cl2
reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 108 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 1-iodo-4-isocyanato-benzene | 120 mg | IC1=CC=C(C=C1)N=C=O | C7H4INO
catalyst | DMAP | 2.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | 4-{2-[Bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid (4-iodo-phenyl)-amide | IC1=CC=C(C=C1)NC(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C37H37IN8O4
